US06949571B2
3-(1-Adamantyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
40 mg of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 10 ml of tetrahydrofuran. To the mixture were added 5 mg of [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) and 1.2 mg of copper(I) iodide. While stirring the mixture at room temperature in nitrogen atmosphere overnight, 0.4 ml of 1-adamantyl zinc bromide (0.5M tetrahydrofuran solution) was added dropwise thereinto. After stirring in nitrogen atmosphere overnight, an aqueous ammonia was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 12 mg of the title compound.

reactant | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 40 mg | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
reactant | 1-adamantyl zinc bromide | 0.5M, 0.4 ml | [Br-].C12(CC3CC(CC(C1)C3)C2)[Zn+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
catalyst | copper(I) iodide | 1.2 mg | [Cu]I
product | 3-(1-Adamantyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 12 mg | C12(CC3CC(CC(C1)C3)C2)C=2C(N(C=C(C2)C2=NC=CC=C2)C2=CC=CC=C2)=O | C26H26N2O
